US04429125
O,O-dimethyl O-(2-(1,1-dimethylethyl)-5-pyrimidinyl) phosphorothioate
To a stirred mixture of 6 grams of 2-(1,1-dimethylethyl)-5-pyrimidinol, 6 grams of finely powdered potassium carbonate and 40 ml of acetonitrile was added 6.33 grams of O,O-dimethyl phosphorochloridothioate. The mixture was stirred without external heating until all O,O-dimethyl phosphorochloridothioate was consumed as shown by GLC. The solids present were removed by filtration, the filtrate concentrated under vacuum, the residue taken up in diethyl ether, the ether solution washed twice with 2% aqueous sodium hydroxide, once with saturated sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was removed under vacuum, while leaving a pale amber colored oil having a refractive index at 25° of 1.5027. Elemental analysis showed the product to contain 43.82% carbon; 6.09% hydrogen and 10.10% nitrogen. Theoretical composition is 43.47% carbon; 6.20% hydrogen and 10.14% nitrogen.

reactant | 2-(1,1-dimethylethyl)-5-pyrimidinol | 6 grams | CC(C)(C)C1=NC=C(C=N1)O | C8H12N2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | O,O-dimethyl phosphorochloridothioate | 6.33 grams | P(OC)(OC)(Cl)=S | C2H6ClO2PS
reactant | hydrogen | [H][H] | H2
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | O,O-dimethyl O-(2-(1,1-dimethylethyl)-5-pyrimidinyl) phosphorothioate | P(OC)(OC)(OC=1C=NC(=NC1)C(C)(C)C)=S | C10H17N2O3PS
